US04731471
{[(5,6-Dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl]oxy}acetamide (3.65 g, 10 mMole) is dissolved in pyridine (25 ml) an N,N'-dicyclohexylcarbodiimide (2.17 g, 10.5 mMole) in pyridine (15 ml) is added portionwise over 30 minutes with stirring at 15°-20° C. The mixture is then stirred at ambient temperature for 3 hours. The precipitated dicyclohexylurea is removed by filtration and the pyridine removed from the filtrate by evaporation in vacuo to provide the [(5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl)oxy]acetonitrile.

reactant | [(5,6-Dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl]oxy}acetamide | 10 mMole, 3.65 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)N)CCOC(C(F)(F)F)=O)=O | C19H16Cl2F3NO5
reactant | N,N'-dicyclohexylcarbodiimide | 10.5 mMole, 2.17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | [(5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-9a-(2-trifluoroacetoxyethyl)-1H-fluoren-7-yl)oxy]acetonitrile | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC#N)CCOC(C(F)(F)F)=O)=O | C19H14Cl2F3NO4
